US07186749B2
Step 2: 2-{[6-(1,5-Diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoic acid.
In a similar manner as described in step 2 of Example 12, the title compound was prepared from methyl 2-{[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate (0.186 g, 0.355 mmol), prepared in the previous step, and 1N NaOH (0.53 mL, 0.53 mmol) in 2:2:1 THF:MeOH:water (25 mL). The starting material required heating to dissolve in the THF (10 mL). After the solution was clear, MeOH (10 mL) was added followed by the water (5 mL). The reaction was complete after 2.5 hours. The solids were isolated by filtration to give 2-{[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoic acid as a beige solid (0.17 g, 94%), mp 194–196° C. (dec). Elemental Analysis for C35H27NO3.0.23 H2O Calc'd: C, 81.83; H, 5.39; N, 2.73. Found: C, 81.07; H, 5.44; N, 2.56.

reactant | methyl 2-{[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate | 0.355 mmol, 0.186 g | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OC(C(=O)OC)CC1=CC=CC=C1 | C36H29NO3
reactant | NaOH | 0.53 mmol, 1N, 0.53 mL | [OH-].[Na+]
reactant | MeOH | CO | CH4O
reactant | water | 25 mL | O | H2O
reactant | MeOH | 10 mL | CO | CH4O
reactant | water | 5 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-{[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoic acid | 0.17 g, 94% | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OC(C(=O)O)CC1=CC=CC=C1 | C35H27NO3
